* BFG505W SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT343 DIE MODEL : BFR505
* 1: COLLECTOR; 2: BASE; 3: EMITTER
.SUBCKT BFG505W 1 2 3
Q1 6 5 7 7 BFR505
* SOT343 parasitic model
               Lb  4 5 .4n
               Le  7 8 .4n
               L1  2 4 .34n
               L2  1 6 .1n
               L3  3 8 .25n
              Ccb  4 6 50f
              Cbe  4 8 70f
              Cce  6 8 115f
*
* PHILIPS SEMICONDUCTORS                                     Version:   1.0
* Filename:   BFR505.PRM                                     Date: Feb 1992
*
.MODEL  BFR505   NPN
+(
+              IS = 1.34186E-016
+              BF = 1.80000E+002
+              NF = 9.88285E-001
+             VAF = 3.83491E+001
+             IKF = 1.50000E-001
+             ISE = 2.78188E-014
+              NE = 2.05149E+000
+              BR = 5.51997E+001
+              NR = 9.82213E-001
+             VAR = 2.45944E+000
+             IKR = 2.92072E-003
+             ISC = 1.74527E-017
+              NC = 1.06245E+000
+              RB = 2.00000E+001
+             IRB = 1.00000E-006
+             RBM = 2.00000E+001
+              RE = 1.17190E+000
+              RC = 4.35000E+000
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 2.84731E-013
+             VJE = 6.00000E-001
+             MJE = 3.03697E-001
+              TF = 7.03759E-012
+             XTF = 1.23460E+001
+             VTF = 1.70189E+000
+             ITF = 3.06496E-002
+             CJC = 2.42404E-013
+             VJC = 1.88622E-001
+             MJC = 4.14981E-002
+)
.ENDS